US05952511
To a suspension of 73.6 g of isatin in 1.2 l of ethanol was added a solution of 64.1 g of hydroxylamine hydrochloride and 64.1 g of sodium acetate in 500 ml of water. The mixture was stirred at room temperature for 30 minutes and concentrated. The residue was washed with water and recrystallized from ethanol to give 51.8 g (64%) of 3-(hydroxyimino)indolin-2-one as yellow crystals.

reactant | isatin | 73.6 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | hydroxylamine hydrochloride | 64.1 g | Cl.NO
reactant | sodium acetate | 64.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 1.2 l | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 3-(hydroxyimino)indolin-2-one | 51.8 g, 64% | ON=C1C(NC2=CC=CC=C12)=O | C8H6N2O2
